US04684220
18.35 g (0.081 mol) of 4-pentylbromobenzene was dissolved in 30 ml of benzene and the solution was stirred at room temperature in a stream of nitrogen. To the resulting solution was added drop-wise 50 ml (0.081 mol) of hexane solution including 15% butyllithium for 30 minutes and the solution was stirred for 2 hours. Then the produced precipitate gathered by the filtration in a stream of nitrogen was dried under reduced pressure to yield 9.2 g of 4-pentylphenyllithium.

reactant | 4-pentylbromobenzene | 0.081 mol, 18.35 g | C(CCCC)C1=CC=C(C=C1)Br | C11H15Br
reactant | hexane | 0.081 mol, 50 ml | CCCCCC | C6H14
reactant | butyllithium | C(CCC)[Li]
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 4-pentylphenyllithium | 9.2 g | C(CCCC)C1=CC=C(C=C1)[Li] | InChI=1S/C11H15.Li/c1-2-3-5-8-11-9-6-4-7-10-11;/h6-7,9-10H,2-3,5,8H2,1H3;
